Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abdominal bloating
 
Major Surgical or Invasive Procedure:
Targeted biopsy of liver lesion on ___

 
History of Present Illness:
HPI: ___ ___ without significant PMH presents with
abdominal discomfort x1 month. Pt describes ___ weeks of
abdominal fullness, with constipation. He has tried laxatives
with intermittent relief. He also noted a palpable LUQ mass with
associated unintentional ___ lb weight loss over the same time
period. He presented to ___ in ___ for evaluation on
___ - he selected that facility because providers there 
speak
___. He denies fevers, chills, with nausea. He has vomited
___ times over the past ___ weeks, nonbloody. Nausea and emesis
occur about 2 hours after eating. BMs have been loose in the 
days
immediately prior to presentation, 4 times per day, small 
volume,
watery. On ___ occasions, he noted dark black stools, but BMs
have otherwise been brown, without hematochezia.  

Every year he travels in ___ to visit his son and
grandchildren. Last year they were in ___, ___ (son is in
the ___, so moves often). He has noted LLE edema>RLE, with
calf tenderness, which he believes predates his trip to ___. 
He
has never had a colonoscopy.

In the ___ ED:
VS 97.2, 110->99, 135/63, 100% RA
Exam notable for tender palpable mass at LUE, brown stools heme 
+
Labs notable for WBC 12.7, Hb 8.9, Plt 596, ALT 6, AST 8, alk
phos 79, Tbili <0.2, albumin 2.6, Cr 0.5, INR 1.1
CT abd/pelvis with contrast with large (10.9 cm) nonobstructing
mass in the transverse colon, and likely metastatic lesions to
the liver.
Reviewed with CRS, plan to admit to medicine for expedited
evaluation.

On arrival to the floor, pt reports fatigue, otherwise has no
complaints. 

ROS: 10 point review of system reviewed and negative except as
otherwise described in HPI

 
Past Medical History:
Tobacco use
 
Social History:
___
Family History:
Father died at age ___ from lung cancer, smoker
Mother had multiple health problems, including DM2
Son in good health
He has 6 sisters, all of whom are in good health to his 
knowledge

 
Physical Exam:
Admission Physical Exam:
=======================
VS: ___ 0121 Temp: 98.2 PO BP: 149/68 HR: 97 RR: 18 O2 sat:
99% O2 delivery: RA 
___ 0152 Dyspnea: 0 RASS: 0 Pain Score: ___ 
GEN: Delightful male, alert and interactive, comfortable, no
acute distress
HEENT: PERRL, anicteric, conjunctiva pink, oropharynx without
lesion or exudate, moist mucus membranes
LYMPH: no anterior/posterior cervical, supraclavicular 
adenopathy
CARDIOVASCULAR: Regular rate and rhythm without murmurs, rubs, 
or
gallops
LUNGS: clear to auscultation bilaterally without rhonchi,
wheezes, or crackles
GI: soft, firm LUQ mass is tender to palpation, without
rebounding or guarding, nondistended with normal active bowel
sounds, liver margin palpated 2 cm below costal margin
EXTREMITIES: LLE nonpitting edema with calf TTP without palpable
cord
GU: no foley, no inguinal lymphadenopathy
SKIN: bilateral LEs with scaling, dry skin
NEURO: alert and interactive, cranial nerves II-XII grossly
intact, strength and sensation grossly intact
PSYCH: normal mood and affect

Discharge Physical Exam
=======================
24 HR Data (last updated ___ @ 737)
Temp: 98.0 (Tm 99.1), BP: 136/72 (113-136/68-73), HR: 82 
(82-90),
RR: 18, O2 sat: 98%, O2 delivery: Ra  
GEN: Sitting up in bed, pleasant, NAD.
HEENT: MMM, OP clear
CARDIOVASCULAR: RRRR, nl S1, S2, no m/r/g
LUNGS: CTAB, no accessory muscle use
GI: soft, firm LUQ mass is tender to palpation, without
rebounding or guarding, nondistended with normal active bowel
sounds
EXTREMITIES: trace LLE nonpitting edema with calf TTP without
palpable cord
SKIN: bilateral LEs with scaling, dry skin
NEURO: AOx3, cranial nerves II-XII grossly intact, strength and
sensation grossly intact
PSYCH: normal mood and affect
 
Pertinent Results:
Admission Labs: 
___ 01:20PM BLOOD WBC-12.7* RBC-3.72* Hgb-8.9* Hct-29.0* 
MCV-78* MCH-23.9* MCHC-30.7* RDW-15.1 RDWSD-43.3 Plt ___
___ 01:24PM BLOOD ___ PTT-30.3 ___
___ 01:20PM BLOOD Glucose-230* UreaN-12 Creat-0.5 Na-136 
K-5.2 Cl-101 HCO3-25 AnGap-10
___ 01:20PM BLOOD Albumin-2.6*
___ 08:10AM BLOOD CEA-5.4* AFP-3.1
___ 08:10AM BLOOD CA ___ -PND

Discharge Labs:
___ 06:45AM BLOOD WBC-10.5* RBC-3.60* Hgb-8.6* Hct-27.9* 
MCV-78* MCH-23.9* MCHC-30.8* RDW-15.2 RDWSD-42.3 Plt ___
___ 06:45AM BLOOD Glucose-200* UreaN-6 Creat-0.4* Na-142 
K-4.5 Cl-103 HCO3-22 AnGap-17
___ 06:45AM BLOOD ALT-7 AST-6 AlkPhos-71 TotBili-<0.2
___ 08:10AM BLOOD CEA-5.4* AFP-3.1

WBC 10.5 (from 12.4), Hgb 8.6 (from 9.1, MCV 78), Plt 568
Na 142, K 4.5, Cl 103, BUN 6, Cr 0.4, HCO3 22, Glu 200

Prior from ___:
CEA 5.4
AFP 3.1
CA ___

BCx (___): pending x1
BCx (___): pending x 2
BCx (___): pending x 1
BCx (___): CoNS (1 of 2 bottles)
UCx (___): mixed flora

Path, liver biopsy (___): pending

Touch prep (___):
POSITIVE FOR MALIGNANT CELLS.
- Carcinoma; see concurrent core biopsy (___) for final
diagnosis.

Liver biopsy (___):
Uncomplicated 18-gauge targeted liver biopsy x 2, with specimen
provided to the on site cytologist who confirmed adequacy of the
specimen. 

CT chest w/cont (___):
1. Indeterminate 3 mm right apical pulmonary nodule, for which
continued follow-up is recommended. 
2. A 9 mm enhancing nodule in the proximal retrosternal region
may represent thyroid tissue in the absence of other mediastinal
lymphadenopathy. 
3. Indeterminate sclerotic foci in the left seventh and eighth
ribs are nonspecific, and may represent a sequela of prior 
trauma
in the setting of other fractures described above.  However,
recommend attention on follow-up 
studies to ensure stability. 
4. Partially imaged transverse colonic mass, better assessed on
the prior CT abdomen/pelvis performed ___. 

MRI brain (___):
1. No evidence of intracranial metastatic disease at this time. 
2. No acute intracranial abnormality on contrast enhanced MRI
brain. 

___ L (___):
Negative for DVT.

CT A/P w/cont (___):
1. 10.9 cm mass in the transverse colon with surrounding fat
stranding and mesenteric lymphadenopathy and multiple hypodense
lesions within the liver, concerning for metastatic colon 
cancer.
 
Brief Hospital Course:
___ ___ without significant PMH presents with
abdominal discomfort x1 month, found to have large colonic mass,
likely carcinoma, with likely metastatic disease to the liver,
with course c/b CoNS in blood, likely contaminant.

# Colonic mass, likely carcinoma metastatic to liver:
Patient p/w abdominal discomfort, found to have transverse colon
mass with liver lesions c/f malignancy. No e/o frank bowel
obstruction. Liver biopsy performed ___, with cytology c/w
carcinoma. Path pending. MRI brain without e/o metastatic
disease. CT chest showed indeterminate 3mm R apical pulmonary
nodule and indeterminate sclerotic foci in L ___ and 8th ribs.
CEA elevated to 5.4, ___ and AFP WNL. He will follow up in GI
___ clinic with Dr. ___ on ___ for management of his
malignancy. He was tolerating a diet on discharge with normal
bowel movements.

# CoNS bacteremia:
# Leukocytosis:
BCx from ___ positive ___ for GPCs in 1 of 2 bottles, for 
which
vancomycin was initiated. Subsequent blood cultures on ___ 
prior
to antibiotics and additional BCx from ___ and ___ (on
Vancomycin) are NGTD. GPCs speciated to CoNS on ___. Likely
contaminant in absence of fevers, with mild leukocytosis (12.7 
on
admission) attributable to malignancy. Discussed with patient on
___ decision made to discontinue antibiotics. Strict return
precautions given for fevers, chills, malaise; patient expressed
understanding and was in agreement with the plan. Requested
speciation of CoNS (to exonerate Staph lugdunesis) and will f/u
pending BCx after discharge. Patient can be reached at
___.

# Microcytic anemia: 
Hgb 8.9 on admission, likely secondary to occult GI bleeding in
setting of likely colonic malignancy. Hgb largely stable in 
house
with no transfusions required. Hgb 8.6 on discharge. ___ benefit
from iron supplementation as outpatient (not initiated on
discharge to avoid constipation).

# LLE edema: 
___ negative for DVT. 

# Thrombocytosis: 
Likely reactive in setting of malignancy.

# Tobacco use:
Smoking cessation counseled prior to discharge.

# Hyperglycemia:
Elevated BG during hospitalization. No prior diagnosis of DM. 
Would benefit from A1c as outpatient.

** TRANSITIONAL **
[ ] w/u hyperglycemia
[ ] f/u liver biopsy path
[ ] f/u repeat BCx
[ ] f/u with GI oncology on ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
2.  Senna 8.6 mg PO BID:PRN Constipation 
RX *sennosides [senna] 8.6 mg 1 Tab by mouth twice a day Disp 
#*60 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Colonic mass with hepatic masses concerning for colon cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr ___,

It was a pleasure taking care of you while you are in the 
hospital.  You were admitted with abdominal pain and found to 
have a mass in your colon, likely a cancer, with lesions in your 
liver as well. You underwent a biopsy to assist with the 
diagnosis and that is currently pending.

You were found to have possible bacteria in your blood, likely 
contamination, for which you received a few days of antibiotics, 
discontinued prior to discharge. Should you experience fevers, 
chills, or unusual fatigue, please contact your doctor and 
return to the emergency room.

Please follow up with your primary care provider and with the 
oncology appointment that we have set up for you as listed 
below. 

With best wishes,
___ Medicine

 
Followup Instructions:
___